US06881733B1
trans-3-methyl-4-(4,5-difluorobenzofur-7-yl)piperidine hydrochloride
The title compound was prepared by treating trans-1-(tert-butoxycarbonyl)-3-methyl-4-(4,5-difluorobenzofur-7-yl)piperidine with 4N hydrochloric acid in dioxane essentially as described for the cis-isomer.

reactant | trans-1-(tert-butoxycarbonyl)-3-methyl-4-(4,5-difluorobenzofur-7-yl)piperidine | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](CC1)C1=CC(=C(C=2C=COC21)F)F)C | C19H23F2NO3
reactant | hydrochloric acid | 4N | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | trans-3-methyl-4-(4,5-difluorobenzofur-7-yl)piperidine hydrochloride | Cl.C[C@@H]1CNCC[C@H]1C1=CC(=C(C=2C=COC21)F)F | InChI=1S/C14H15F2NO.ClH/c1-8-7-17-4-2-9(8)11-6-12(15)13(16)10-3-5-18-14(10)11;/h3,5-6,8-9,17H,2,4,7H2,1H3;1H/t8-,9-;/m1./s1
